US04897490
3,3-Bis(4-fluorophenyl)-2-[2-(triphenylmethyl)-2H-tetrazol-5-yl]-2-propenal
To a solution of 2.2 g (4.0 mmol) 3,3-bis(4-fluorophenyl)-2-[2-(triphenylmethyl)-2H-tetrazol-5-yl]-2-propenol in 100 mL methylene chloride was added 7 g of activated manganese dioxide. After stirring the resultant mixture for 20 hours, the insolubles were removed by filtration and the filtrate concentrated in vacuo to give a quantative yield of the title compound; m.p.=208° C. (dec).

reactant | 3,3-bis(4-fluorophenyl)-2-[2-(triphenylmethyl)-2H-tetrazol-5-yl]-2-propenol | 4.0 mmol, 2.2 g | FC1=CC=C(C=C1)C(=C(CO)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)F | C35H26F2N4O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 7 g | [O-2].[O-2].[Mn+4]
product | 3,3-Bis(4-fluorophenyl)-2-[2-(triphenylmethyl)-2H-tetrazol-5-yl]-2-propenal | FC1=CC=C(C=C1)C(=C(C=O)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)F | C35H24F2N4O
